US07148234B2
STEP 1. 4,6-Dimethyl-3-nitro-2(1H)-pyridinone
A mixture of ethyl nitroacetate (80.0 g, 601 mmol) in ammonium hydroxide (25% NH3 in water, 400 mL) was stirred at room temperature for 3 days, and then the solution was concentrated by air-drying. The residue was dissolved in water (450 mL). To the solution was added 2,4-pentanedione (73.1 g, 730 mmol), pyridine (16.2 mL, 200 mmol) and acetic acid (11.4 mL, 200 mmol), and the mixture was stirred for an additional 7 days. The resulting precipitates were collected by filtration and dried under reduced pressure to give 35.0 g (35%) of the title compound as yellow solids: 1H-NMR (DMSO-d6) δ 12.44 (1H, br.s), 6.06 (1H, s), 2.19 (3H, s), 2.13 (3H, s).

reactant | ethyl nitroacetate | 601 mmol, 80.0 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | 2,4-pentanedione | 730 mmol, 73.1 g | CC(CC(C)=O)=O | C5H8O2
reactant | pyridine | 200 mmol, 16.2 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | 200 mmol, 11.4 mL | C(C)(=O)O | C2H4O2
solvent | ammonium hydroxide | 400 mL | [OH-].[NH4+]
product | 4,6-Dimethyl-3-nitro-2(1H)-pyridinone | 35.0 g, 35% | CC1=C(C(NC(=C1)C)=O)[N+](=O)[O-] | C7H8N2O3
